US08809369B2
A mixture solution of 2-(3-bromo-phenyl)-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-6-sulfonic acid cyclobutylamide (150 mg, 0.34 mmol), copper(I) iodide (20 mg, 0.1 mmol), 1-amino-cyclopropanecarboxylic acid (138 mg, 1.3 mmol) and potassium carbonate (140 mg, 1.0 mmol) in dimethyl sulfoxide (2.0 mL) was stirred at 120° C. for 16 h. Then the reaction mixture was cooled to room temperature and extracted with ethyl acetate (70 mL×2), washed with water (30 mL×3) and saturated aqueous ammonium chloride solution (30 mL×2), dried over anhydrous sodium sulfate and then concentrated in vacuo. Purification by Waters automated flash system (column: Xterra 30 mm×100 mm, sample manager 2767, pump 2525, detector: ZQ mass and UV 2487, solvent system: acetonitrile and 0.1% ammonium hydroxide in water) afforded 1-[3-(6-cyclobutylsulfamoyl-4,4-dimethyl-1,2,3,4-tetrahydro-quinolin-2-yl)-phenylamino]-cyclopropanecarboxylic acid (123 mg, 80.0%) as a white solid: MS (ESI) M+1=470.2.

reactant | 2-(3-bromo-phenyl)-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-6-sulfonic acid cyclobutylamide | 0.34 mmol, 150 mg | C1(CCC1)NS(=O)(=O)C=1C=C2C(CC(NC2=CC1)C1=CC(=CC=C1)Br)(C)C | C21H25BrN2O2S
reactant | 1-amino-cyclopropanecarboxylic acid | 1.3 mmol, 138 mg | NC1(CC1)C(=O)O | C4H7NO2
reactant | potassium carbonate | 1.0 mmol, 140 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dimethyl sulfoxide | 2.0 mL | CS(=O)C | C2H6OS
catalyst | copper(I) iodide | 0.1 mmol, 20 mg | [Cu]I
product | 1-[3-(6-cyclobutylsulfamoyl-4,4-dimethyl-1,2,3,4-tetrahydro-quinolin-2-yl)-phenylamino]-cyclopropanecarboxylic acid | 123 mg, 80.0% | C1(CCC1)NS(=O)(=O)C=1C=C2C(CC(NC2=CC1)C=1C=C(C=CC1)NC1(CC1)C(=O)O)(C)C | C25H31N3O4S
